US06248765B1
10 mmol of 3-(1H-imidazol-4-yl)propanol are reacted with 12 mmol of di-tert-butyl dicarbonate in 20 ml of acetonitrile, 5 ml of triethylamine and 5 ml of H2O in the presence of 1 mmol of 4-(N,N-dimethylamino)pyridine at room temperature for 2 hours. Evaporation of the solvent and final purification by column chromatography (eluent:dichloromethane/methanol, 90:10) yield 4-(3-hydroxypropyl)-1H-imidazole-1-carboxylic acid tert-butyl ester in the form of an oil.

reactant | 3-(1H-imidazol-4-yl)propanol | 10 mmol | N1C=NC(=C1)CCCO | C6H10N2O
reactant | di-tert-butyl dicarbonate | 12 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | H2O | 5 ml | O | H2O
catalyst | 4-(N,N-dimethylamino)pyridine | 1 mmol | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-(3-hydroxypropyl)-1H-imidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCCO | C11H18N2O3
